US04421690
A mixture of 0.410 g (0.0108 mol) of lithium aluminum hydride, 50 mL of tetrahydrofuran and 2.98 g (0.0033 mol) of [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate) was heated at reflux (60°) for 1 hr and cooled to 0° C. The mixture was diluted with 120 mL of ether and quenched with the dropwise addition of 0.82 mL of water and 0.65 mL of 10% aqueous sodium hydroxide solution. The mixture was then dried for 1 hr and filtered. The solids were triturated with ether and filtered. The combined filtrates were evaporated to dryness and chromatographed on 0.06-0.20 mm silica gel to yield [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-ene, [α]D16 +2° (c 1, CHCl3).

reactant | lithium aluminum hydride | 0.0108 mol, 0.410 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate) | 0.0033 mol, 2.98 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CCC(C(C)(C)OC(C)OCC)(F)F)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1 | C48H74F2O9S
solvent | ether | 120 mL | CCOCC | C4H10O
product | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-ene | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)OC(C)OCC)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H68F2O6
